Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / avocado
 
Attending: ___
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman w/ UC who presented to the ED 
with hematochezia 1 day after a large polyp removal. During 
colonoscopy on ___ she as noted to have a 4cm - 5 cm single 
sessile polyp in the distal ascending colon proximal to the 
hepatic flexure, which was partially removed by EMR. However she 
developed some cramping abdominal discomfort later in the 
evening and passed two large clots as well as frank blood. She 
came to the ED, at which point she began feeling dizzy, LH, 
nauseous and diaphoretic, and had a syncopal event while in the 
restroom in the ED ED. No CP or significant injury from fall. 
She reports no significant history suggestive of prior vasovagal 
episodes except that she passed out when she had a miscarriage 
(at which time she also reports significant blood loss). She 
notes that her last blood per rectum was around 1 AM and that 
she is no longer having any abdominal cramping. 

ROS:
Comprehensive 10 pt ROS negative except as per HPI
 
Past Medical History:
Ulcerative colitis
Colonic polyps
Anxiety
ADD
Cesarean x2
 
Social History:
___
Family History:
Father w/ ___ diagnosed w/ several cancers including
renal, colon. Colon cancer diagnosed at ___. 
 
Physical Exam:
Admission Physical Exam:
VS: 98.8 113 / 75 69 1897 RA
gen: pt in NAD
HEENT: NC/AT, sclera anicteric, conjunctiva noninjected, PER, 
EOMI, MMMs
CV: RRR no m/r/g
Pulm: CTAB no c/r/w
Abd: S NT ND BS+ no HSM or masses
Extr: wwp no edema, distal pulses intact
Neuro: grossly intact
Skin: no lesions noted on limited exam
Psych: normal range of affect

Discharge Physical Exam:
VITALS: 98.4 99.59 64 18 100% RA
GEN: Lying flat in bed in NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
 
Pertinent Results:
===========================================
Admission labs/diagnostic studies:
CBC: 10>11.1 (from 12.5)<203
BMP: ___
INR 1.0

EGD ___
Impression: 
    A 4cm - 5 cm single sessile polyp in the distal ascending 
colon proximal to the hepatic flexure was found extending to 
half the circumference of the lumen and over 2 folds.
         Spot ink was injected proximal to identify the polyp 
site. 
        The polyp was raised by submucosal injection with saline 
and methylene blue to create a saline pillow.
        An endoscopic mucosal resection (EMR) was performed and 
the polyp was partially removed in piecemeal fashion using a hot 
snare.
         Due to inability to lift the remainder of the polyp we 
were unable to completely resect. 
    Otherwise normal colonoscopy to cecum
Recommendations: 
    Clear liquid diet when awake, then advance diet as 
tolerated.
    Follow up with Dr. ___ as previously scheduled.
    Surgical consultation for evaluation of polyp resection - Dr 
___
    ___ is up to 10% bleeding risk after endoscopic mucosal 
resection. If you experience black stools, blood in the stool, 
or any other evidence of blood passage, please call the advanced 
endoscopy fellow (___) and go to the 
nearest emegency room
    NO ASPIRIN, PLAVIX, COUMADIN, NSAIDs (eg Advil, Motrin, 
Aleve) for 7 days
===========================================
Discharge Labs:
___ 06:35AM BLOOD WBC-5.7 RBC-3.55* Hgb-10.6* Hct-32.0* 
MCV-90 MCH-29.9 MCHC-33.1 RDW-12.4 RDWSD-40.6 Plt ___
___ 06:40AM BLOOD Glucose-126* UreaN-8 Creat-0.7 Na-144 
K-3.7 Cl-110* HCO3-29 AnGap-9
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman who presents with GI bleed 
complicated by a syncopal event.

# GI bleed: The etiology of her GI bleed is most likely 
secondary to post-polypectomy bleed as she had an attempted 
polyp removal earlier in the day. She remained hemodynamically 
stable without recurrence of bleed while she was hospitalized. 
She did not undergo further procedures while in-house. She was 
seen by the colorectal surgery team and is scheduled for a 
follow up appointment to arrange for definitive polyp removal.

# UC: Continued lia___ on d/c
# Anxiety: Continued home celexa
# ADD: Continued adderrall

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Lialda (mesalamine) 2.4 g oral DAILY 
3. MethylPHENIDATE (Ritalin) 20 mg PO BID 
4. Calcium Carbonate 500 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO DAILY  
2.  Citalopram 20 mg PO DAILY  
3.  Lialda (mesalamine) 2.4 g oral DAILY  
4.  MethylPHENIDATE (Ritalin) 20 mg PO BID  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-polypectomy bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with a bleed after undergoing 
polyp removal. This is not uncommon after a polypectomy. You had 
no further episodes while you were with us and no further 
intervention was performed by the gastroenterology team. The 
polyp was only partially removed during your colonoscopy given 
technical challenges. You are scheduled for follow up with the 
colorectal surgery team to discuss timing of definitive polyp 
removal.

Please note: NO ASPIRIN, PLAVIX, COUMADIN, NSAIDs (eg Advil, 
Motrin, Aleve) for 7 days

It was a pleasure to be a part of your care,
Your ___ treatment team
 
Followup Instructions:
___